*****************************************************************
* NXP PSMN1R8-40YLC
*
* Polarity N-Channel
* Ratings 40V/1.800000E-003OHMS/100A
*
* Date Created Fri Aug 10 01:21:22 2012
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN1R8-40YLC DRAIN GATE SOURCE

LD DRAIN 5 1e-11
RLD2 DRAIN 5 0.0251327412287184
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 4.4e-10
RLS2 SOURCE 8 1.10584061406361
RLS1 8 7 0.00017

RDS 7 4 40000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.000905259714159774 TC=0.00730765178987315,-1.02669586411954E-06
RBD 9 4 0.000785279028967596 TC=0.00730765178987315,-1.02669586411954E-06
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 5.249458450905729e-09
RG 1 2 0.958033761817533

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -1	3220.32
+ -0.5	2350.2
+ -0.2	1874.12
+ -0.1	1862.41
+ 0	872.4284
+ 0.1	1356.0668
+ 0.2	1354.3268
+ 0.5	1056.69416
+ 1	826.98604
+ 2	633.11572
+ 3	531.02224
+ 4	463.17432
+ 5	411.82636
+ 6	374.499
+ 8	333.27932
+ 10	317.03112
+ 12	312.61868
+ 15	313.61852
+ 16	313.99644
+ 20	312.4356
+ 25	306.82216
+ 30	300.17304



.MODEL MINT NMOS(Vto=1.88936491986529 Kp=4.5e+002 Nfs=360000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=44 Ibv=2.500000E-004 Rs=1E-6 Is=3.37656635469665e-12
+ N=1 M=0.790000000000001 VJ=0.94 Fc=0.5 Cjo=6.031528e-09 Tt=3.702928e-08)

.ENDS

